US09119398B2
(3E,3aR,4R,6aR)-4-hydroxy-3-[[(2S)-4-methyl-5-oxo-2H-furan-2-yl]oxymethylene]-1,3a,4,6a-tetrahydrocyclopenta[b]pyrrol-2-one Ia-14″
To a solution of (3E,3aR,6aR)-3-[[(2S)-4-methyl-5-oxo-2H-furan-2-yl]oxymethylene]-1,3a,4,6a-tetrahydrocyclopenta[b]pyrrol-2-one Ia-1″ (125 mg, 0.50 mmol) in 1,4-dioxane (2.5 mL) was added SeO2 (67.1 mg, 0.60 mmol) The suspension was stirred at 100° C. for 4 h then the dark suspension was then allowed to cool to room temperature followed by filtration and concentration under reduced pressure. Purification using flash chromatography (CH2Cl2/MeOH, gradient) afforded the desired compound as a dark oil (58 mg, 44%); 1H NMR (400 MHz, MeOH-d4) 7.35 (1H, d), 7.16 (1H, m), 6.38 (1H, m), 5.95 (1H, dd), 5.91 (1H, m), 4.76 (1H, m), 4.72 (1H, m), 3.39 (1H, m), 1.97 (3H, m): LCMS (Method D): 0.24 min; ES+264 (M+H+).

reactant | (3E,3aR,6aR)-3-[[(2S)-4-methyl-5-oxo-2H-furan-2-yl]oxymethylene]-1,3a,4,6a-tetrahydrocyclopenta[b]pyrrol-2-one | CC1=C[C@H](OC1=O)O\C=C\1/[C@@H]2[C@H](NC1=O)C=CC2 | C13H13NO4
reactant | 1,4-dioxane | 2.5 mL | O1CCOCC1 | C4H8O2
product | (3E,3aR,4R,6aR)-4-hydroxy-3-[[(2S)-4-methyl-5-oxo-2H-furan-2-yl]oxymethylene]-1,3a,4,6a-tetrahydrocyclopenta[b]pyrrol-2-one | 58 mg, 44% | O[C@@H]1C=C[C@H]2NC(/C(/[C@H]21)=C/O[C@H]2OC(C(=C2)C)=O)=O | C13H13NO5
